US06140351
To a solution of N-(2-methyl-2-hydroxypropyl)-N'-ethylurea (7.2 g, 45 mmol) in CH2Cl2 (100 mL) at 0° C. was added a solution of thionyl chloride (5.4 g, 45 mmol) in CH2Cl2 (20 mL). The mixture was warmed to ambient temperature. After 2 hours, the mixture was concentrated in vacuo, and the resulting solid triturated with boiling water. The mixture was cooled to ambient temperature and made basic by addition of saturated aqueous K2CO3. The mixture was extracted with methylene chloride, dried over K2CO3, and concentrated in vacuo to afford 3.2 g (50% yield) of 2-ethylamino-5,5-dimethyloxazoline; NMR (DMSO-d6 /TFA) 3.2 (s, 2), 3.0 (q, 2), 1.3 (s, 6), 1.0 (t, 3) ppm.

reactant | N-(2-methyl-2-hydroxypropyl)-N'-ethylurea | 45 mmol, 7.2 g | CC(CNC(=O)NCC)(C)O | C7H16N2O2
reactant | thionyl chloride | 45 mmol, 5.4 g | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-ethylamino-5,5-dimethyloxazoline | 3.2 g, 50% yield | C(C)NC=1OC(CN1)(C)C | C7H14N2O
